US08703742B2
3-(3-Benzyloxy-propoxy)-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
A solution of trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-6-formyl-phenyl ester (8.0 g, 19 mmol) in anhydrous 1,4-dioxane (160 mL) was added bis(pinacolato)diborane (9.71 g, 38.2 mmol) and KOAc (5.71 g, 57.4 mmol) at rt, then degassed with N2 for 20 min. PdCl2(dppf) (1.39 g, 1.89 mmol) was added and the resulting solution was stirred at 100° C. until the reaction was complete. The solution was cooled to rt, filtered through Celite® or silica gel and concentrated in vacuo. The residue was taken up in EtOAc. The organic layer was then washed with H2O then brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was purified by flash chromatography (9:1 hexane/EtOAc) to give 4.80 g of the title compound (yield 43%) along with some pinacol contamination and was used without further purification. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.93 (s, 1H), 7.46 (t, J=7.8 Hz, 1H), 7.41-7.36 (m, 1H), 7.35-7.24 (m, 5H), 7.08 (d, J=7.8 Hz, 1H), 4.50 (s, 2H), 4.10 (t, J=6.3 Hz, 2H), 3.67 (t, J=6.3 Hz, 2H), 2.11 (quin, J=6.2 Hz, 2H), 1.43 (s, 12H).

reactant | trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-6-formyl-phenyl ester | 19 mmol, 8.0 g | C(C1=CC=CC=C1)OCCCOC1=C(C(=CC=C1)C=O)OS(=O)(=O)C(F)(F)F | C18H17F3O6S
reactant | bis(pinacolato)diborane | 38.2 mmol, 9.71 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 57.4 mmol, 5.71 g | CC(=O)[O-].[K+]
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 1.89 mmol, 1.39 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-Benzyloxy-propoxy)-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 4.80 g, yield 43% | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1)B1OC(C(O1)(C)C)(C)C | C23H29BO5
